US04911862
The resulting 4-acetyl-3'-fluoro-4'-methoxybiphenyl (7.2 g) was dissolved in 300 ml of dioxane, and 360 ml of a solution of sodium hypobromite (prepared from 75 g of sodium hydroxide and 78 g of bromine) was added over about 40 minutes at 0° to 5° C., and the mixture was stirred at 30° to 35° C. for 2 hours. The excess of sodium hypobromite was decomposed with a saturated aqueous solution of sodium hydrogen sulfite, and 10% hydrochloric acid was added to adjust the pH of the solution to 3 to 4. The solution was left to stand at 10° C. for 20 hours to permit crystallization. The resulting crystals were filtered to give 7.2 g of 3'-fluoro-4'-methoxybiphenyl-4-carboxylic acid. Recrystallization from isopropyl alcohol gave 6.8 g of the desired product. Yield 94%.

reactant | 4-acetyl-3'-fluoro-4'-methoxybiphenyl | 7.2 g | C(C)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)OC)F | C15H13FO2
reactant | sodium hypobromite | 75 g | Br[O-].[Na+]
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 3'-fluoro-4'-methoxybiphenyl-4-carboxylic acid | 7.2 g, Yield 94% | FC=1C=C(C=CC1OC)C1=CC=C(C=C1)C(=O)O | C14H11FO3
